US05364871
A mixture of 6-acetyl-2-pyridinecarbaldehyde (0.5 g) and cyanomethylenetriphenylphosphorane (1.5 g) in tetrahydrofuran (5 ml) was stirred for 6 hours and the mixture was evaporated in vacuo. The residue was separated and purified by column chromatography on silica gel and eluted with a mixture of n-hexane and ethyl acetate (4:1, V/V). The eluted fast fractions containing the desired product were collected and evaporated in vacuo to give 2-acetyl-6-[2-(E)-cyanovinyl]pyridine (0.18 g).

reactant | 6-acetyl-2-pyridinecarbaldehyde | 0.5 g | C(C)(=O)C1=CC=CC(=N1)C=O | C8H7NO2
reactant | cyanomethylenetriphenylphosphorane | 1.5 g | C(#N)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H16NP
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-acetyl-6-[2-(E)-cyanovinyl]pyridine | 0.18 g | C(C)(=O)C1=NC(=CC=C1)\C=C\C#N | C10H8N2O
